US08912188B2
To a solution of methyl 3-(isopropyl(methyl)amino)-2-(1H-pyrazol-4-yl)quinoxaline-6-carboxylate (130.0 mg, 0.40 mmol,) in methanol (20 mL) and water (1 mL) was added lithium hydroxide hydrate (50.0 mg, 1.12 mmol). The resulting solution was stirred overnight at room temperature and then concentrated under vacuum. The residue was diluted with water (10 mL) and adjusted to pH 5 with citric acid (1N). The product were collected by filtration to afford 3-(isopropyl(methyl)amino)-2-(1H-pyrazol-4-yl)quinoxaline-6-carboxylic acid as yellow solid (64.7 mg, 52%).

reactant | methyl 3-(isopropyl(methyl)amino)-2-(1H-pyrazol-4-yl)quinoxaline-6-carboxylate | 0.40 mmol, 130.0 mg | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=NNC1)C | C17H19N5O2
reactant | lithium hydroxide hydrate | 1.12 mmol, 50.0 mg | O.[OH-].[Li+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-(isopropyl(methyl)amino)-2-(1H-pyrazol-4-yl)quinoxaline-6-carboxylic acid | 64.7 mg, 52% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1C=NNC1)C | C16H17N5O2
